* Pan Load Equivalent Circuit Model for Induction Cooker
* pan_load.sub
*
* PURPOSE: Model the induction coil and ferromagnetic pan load as a
*          transformer-coupled system with variable parameters.
*
* THEORY:
* The induction coil and pan form a loosely-coupled transformer where:
*   - Primary: Induction coil (Litz wire spiral, ~50uH uncoupled)
*   - Secondary: Pan bottom (acts as shorted turn)
*   - Coupling coefficient k: 0.2 to 0.6 (depends on air gap, pan size)
*     *** CORRECTED 2026-07-27 FOR PANLOAD_TRANSFORMER ONLY -- this
*     *** 0.2-0.6 header range is PROVEN TOO LOW. See the "COUPLING
*     *** PARAMETER CORRECTION" block right above PANLOAD_TRANSFORMER
*     *** below, and docs/evidence/2026-07-27-pan-model-correction.md,
*     *** for the derivation, the corrected point, and why this old
*     *** range is left here (uncorrected) for PANLOAD_SIMPLE/
*     *** PANLOAD_VARIABLE/the preset subckts, which this pass did not
*     *** touch -- do not assume those are now trustworthy either.
*
* EQUIVALENT CIRCUIT (T-model):
*
*         L_leak                       L_leak
*    o----YYYY----o--------o--------o----YYYY----o
*    |            |        |        |            |
*    |           ---      ---       |           ---
*   L1          | |      | |       L2          | |
*   Coil       Lmag      Rmag      Pan        Rpan
*    |          | |      | |        |          | |
*    |           ---      ---       |           ---
*    |            |        |        |            |
*    o------------o--------o--------o------------o
*
* For induction cooking, the secondary (pan) is effectively shorted,
* so we can use a simplified reflected impedance model:
*
*    Zreflected = (k^2 * L1 * omega)^2 / (Rpan + j*omega*L2)
*              ≈ Rref + j*omega*Leff
*
* Where:
*   Rref = k^2 * omega^2 * M^2 / Rpan  (reflected resistance = power delivery)
*   Leff = L1 * (1 - k^2)               (effective inductance)
*
* PAN MATERIALS (typical values at 30-40kHz):
*   Cast Iron:    Rpan = 5-15 ohm,  k = 0.4-0.6
*   Stainless:    Rpan = 15-50 ohm, k = 0.2-0.4
*   Aluminum:     Rpan = 50-200 ohm, k = 0.1-0.2 (poor coupling)
*   No pan:       Rpan = ∞,          k ≈ 0
*   *** These per-material k/Rpan figures are UNCITED (no source ever
*   *** given anywhere in this file's history) and are NOT corrected by
*   *** this pass -- they are flagged, not fixed. See the correction
*   *** block below PANLOAD_TRANSFORMER's header for what IS fixed.
*
***************************************************************************
* MODEL PARAMETERS (override with .param statements)
***************************************************************************
* .param L1_UNCOUPLED = 80u    ; Primary coil inductance (no pan)
* .param K_COUPLE = 0.4        ; Coupling coefficient (0.2 to 0.6)
* .param R_PAN = 10            ; Pan equivalent resistance
* .param R_COIL = 0.1          ; Primary coil AC resistance
*
***************************************************************************

***************************************************************************
* SUBCIRCUIT: PANLOAD_SIMPLE
* Simplified model using reflected impedance
*
* Terminals:
*   A, B: Connection to resonant tank
*
* Parameters:
*   L1 = Primary inductance uncoupled (default 80uH)
*   K  = Coupling coefficient (default 0.4)
*   RPAN = Pan equivalent resistance (default 10 ohm)
*   RCOIL = Coil series resistance (default 0.1 ohm)
***************************************************************************
.subckt PANLOAD_SIMPLE A B L1=80u K=0.4 RPAN=10 RCOIL=0.1

* Effective inductance: Leff = L1 * (1 - k^2)
* With k=0.4, Leff = L1 * 0.84
L_eff A N_leff {L1*(1-K*K)} IC=0

* Coil AC resistance (skin effect in Litz wire)
R_coil N_leff N_rcoil {RCOIL}

* Reflected resistance from pan
* Rref ≈ k^2 * L1 * omega / Rpan * L1 * omega
* Simplified: at resonance, Rref ≈ k^2 * L1^2 * omega^2 / Rpan
* For 35kHz: omega = 220k rad/s
* Rref ≈ 0.16 * 80u^2 * 220k^2 / 10 ≈ 5 ohm
* This is frequency-dependent, so we use a fixed approximation
* that's valid near the operating frequency
*
* More accurate: Use behavioral source, but for initial design
* we use a fixed value representing reflected resistance
R_ref N_rcoil B {K*K*80}

.ends PANLOAD_SIMPLE

***************************************************************************
* COUPLING PARAMETER CORRECTION -- 2026-07-27 (PANLOAD_TRANSFORMER ONLY)
***************************************************************************
* The K=0.4 / L2=1u defaults this subckt shipped with were PROVABLY
* IMPOSSIBLE, independent of any geometry assumption:
*
*   - The loaded/unloaded inductance ratio this topology can produce has a
*     hard floor of (1 - K^2), regardless of L2 or RPAN (shorted-secondary
*     limit, x=omega*L2 -> infinity). Infineon AN235020's MEASURED ratio on
*     a real coil+pan is ~0.40, which requires K >= 0.775. K=0.4 (old
*     default) gives a best-case floor of 0.84 -- it can never get there.
*   - Separately, L2=1uH kept omega*L2 ~45x below RPAN at every preset in
*     this file, which suppresses the coupling's effect on both L and R
*     almost entirely regardless of K (the model sat in a "barely loaded"
*     regime at every operating point ever swept with it).
*   - Together these produced an implied tank Q of 143 in
*     docs/hardware/TANK_COIL_SPECIFICATION.md's sweep, against a realistic
*     induction-hob Q of roughly 10-20.
*
* THE FIX BELOW IS CONSTRAINT-SATISFYING, NOT MEASURED. It is one
* self-consistent point in a family that three unknowns (K, L2, RPAN) and
* two literature-derived equations (L-ratio=0.40, R_eff~=2.2 ohm) cannot
* uniquely resolve -- holding RPAN at a different (equally uncited) value
* yields a different (K, L2) pair fitting the same two constraints just as
* well. It is derived from a measurement Infineon made at 90-150kHz on an
* unstated-diameter stockpot -- a DIFFERENT frequency band and an
* UNVERIFIED-to-transfer geometry, not this project's coil or pan. Full
* arithmetic, the underdetermination, and a re-run of every dependent
* simulation are in docs/evidence/2026-07-27-pan-model-correction.md and
* docs/evidence/2026-07-27-coil-pan-coupling-resolution.md Sec 2.
*
* Chosen point (holding L1=80u, RPAN=10 -- both this file's own
* pre-existing, still-uncited defaults -- fixed):
*   K  = 0.79   (was 0.4)   -- satisfies L-ratio=0.40 jointly with L2 below
*   L2 = 218u   (was 1u)    -- satisfies R_eff ~= 2.2 ohm jointly with K
*
* SUPERSEDED BY: the bench spec in
* docs/evidence/2026-07-27-coil-pan-coupling-resolution.md Sec 4, which
* requires THREE frequency points (25/35/45kHz) on the real coil+pan to
* separate L2 from RPAN -- a single-frequency measurement cannot do this
* (see Sec 2.5 of that document). Until that bench measurement exists,
* treat K/L2/RPAN below as "no longer provably impossible," not as
* "measured for this design."
*
* calibrated: false -- unchanged by this correction. This moves the model
* from provably-wrong to plausibly-right; it does not calibrate it.
***************************************************************************
* SUBCIRCUIT: PANLOAD_TRANSFORMER
* Full transformer model with mutual inductance
*
* Terminals:
*   A, B: Primary connection (to resonant tank)
*
* Parameters:
*   L1 = Primary inductance (default 80uH)
*   L2 = Secondary inductance (default 218uH -- corrected 2026-07-27, was
*        1uH; see COUPLING PARAMETER CORRECTION block above)
*   K  = Coupling coefficient (default 0.79 -- corrected 2026-07-27, was
*        0.4; see COUPLING PARAMETER CORRECTION block above)
*   RPAN = Pan equivalent resistance (default 10 ohm, unchanged -- still an
*          uncited placeholder, held fixed as the anchor for this
*          correction's arithmetic; see docs/evidence/2026-07-27-pan-model-
*          correction.md)
*   RCOIL = Coil series resistance (default 0.1 ohm)
***************************************************************************
.subckt PANLOAD_TRANSFORMER A B L1=80u L2=218u K=0.79 RPAN=10 RCOIL=0.1

* Primary side
R_coil A N_p1 {RCOIL}
L_pri N_p1 N_p2 {L1} IC=0

* Secondary side (pan as shorted turn)
L_sec N_s1 N_s2 {L2} IC=0
R_pan N_s2 N_s3 {RPAN}

* Short the secondary (pan is continuous conductor)
V_short N_s3 N_s1 DC 0

* Mutual coupling
K_couple L_pri L_sec {K}

* Complete primary circuit
R_dummy N_p2 B 1m

.ends PANLOAD_TRANSFORMER

***************************************************************************
* SUBCIRCUIT: PANLOAD_VARIABLE
* Model with parameterized coupling for no-pan detection testing
*
* Terminals:
*   A, B: Primary connection
*
* Parameters:
*   L1 = Primary inductance (default 80uH)
*   K  = Coupling coefficient (0 = no pan, 0.5 = good pan)
*   RPAN = Pan resistance (default 10 ohm)
*   RCOIL = Coil resistance (default 0.1 ohm)
***************************************************************************
.subckt PANLOAD_VARIABLE A B L1=80u K=0.4 RPAN=10 RCOIL=0.1

* Behavioral model for variable reflected impedance
* This allows testing no-pan vs pan-present scenarios

* Primary inductance (affected by coupling)
* With no pan (k=0): full L1
* With pan (k>0): reduced effective inductance
L_eff A N_l {L1*(1-K*K)} IC=0

* Coil resistance
R_coil N_l N_r {RCOIL}

* Reflected resistance (only when pan present)
* When k=0: very high impedance (no power transfer)
* When k>0: power transferred to pan
* Rref roughly proportional to k^2
R_ref N_r B {(K > 0.01) ? (K*K*100) : 10MEG}

.ends PANLOAD_VARIABLE

***************************************************************************
* SUBCIRCUIT: PANLOAD_CASTIR0N
* Pre-configured for cast iron pan (best coupling)
* Typical: 26cm diameter, 4mm thickness
***************************************************************************
.subckt PANLOAD_CASTIRON A B

* Cast iron parameters:
* - High permeability -> good coupling
* - Moderate resistivity -> good power absorption
* - k = 0.5 typical
* - Rpan = 8 ohm typical at 35kHz

X_pan A B PANLOAD_SIMPLE L1=80u K=0.5 RPAN=8 RCOIL=0.1

.ends PANLOAD_CASTIRON

***************************************************************************
* SUBCIRCUIT: PANLOAD_STAINLESS
* Pre-configured for 18/10 stainless steel pan
* Requires ferromagnetic disk for induction compatibility
***************************************************************************
.subckt PANLOAD_STAINLESS A B

* Stainless steel parameters:
* - Low permeability -> poor coupling without disk
* - High resistivity -> less efficient power transfer
* - k = 0.3 typical
* - Rpan = 25 ohm typical at 35kHz

X_pan A B PANLOAD_SIMPLE L1=80u K=0.3 RPAN=25 RCOIL=0.1

.ends PANLOAD_STAINLESS

***************************************************************************
* SUBCIRCUIT: PANLOAD_NOPAN
* No pan present - used for no-load detection
***************************************************************************
.subckt PANLOAD_NOPAN A B

* No pan: uncoupled coil
* Full inductance, no reflected resistance
* Only coil losses present

L_coil A N_l 80u IC=0
R_coil N_l B 0.1

* Very small parasitic to prevent floating node
R_par A B 10MEG

.ends PANLOAD_NOPAN

***************************************************************************
* SIMULATION NOTES:
*
* 1. For resonant tank design, use PANLOAD_SIMPLE or PANLOAD_CASTIRON
*    to get approximate behavior near resonance.
*
* 2. For frequency sweep analysis, use PANLOAD_TRANSFORMER for more
*    accurate frequency-dependent behavior.
*
* 3. For no-pan detection testing, compare PANLOAD_CASTIRON vs
*    PANLOAD_NOPAN - the resonant frequency and Q-factor will differ
*    significantly.
*
* 4. Resonant capacitor selection:
*    C = 1 / (omega^2 * Leff)
*    For f = 35kHz, Leff = 54uH (with k=0.5, L1=80uH):
*    C = 1 / ((2*pi*35k)^2 * 54u) = 383nF ≈ 400nF
*
* 5. Quality factor at resonance:
*    Q = omega * Leff / Rtotal
*    For f=35kHz, Leff=54uH, Rtotal=5ohm:
*    Q = 220k * 54u / 5 = 2.4
*    Low Q is normal for loaded induction systems (power transfer!)
*
* 6. TYPICAL OPERATING PARAMETERS:
*    - Resonant frequency: 25-40 kHz
*    - Effective inductance: 40-70 uH (depends on pan)
*    - Resonant capacitor: 300-600 nF
*    - Reflected resistance: 3-20 ohm (depends on pan type)
*    - Peak coil current: 30-50 A for 2kW
*
***************************************************************************

* End of pan_load.sub
